US04734416
16.4 Grams of 5-hydroxy-3,4-dihydrocarbostyril are dissolved in 300 ml of acetic acid. This solution is stirred at room temperature, and 50 ml of acetic acid solution containing 7 g of chlorine are added dropwise and the reaction is continued for 3 hours with stirring The reaction mixture is poured into 500 ml of water and allowed to stand for 1 hour and the precipitate thus formed is separated by filtration, washed with water and then dried. Recrystallization from ethanolwater obtains 13.5 g of 6-chloro-5-hydroxy-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 209°-210° C.

reactant | 5-hydroxy-3,4-dihydrocarbostyril | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | chlorine | 7 g | ClCl | Cl2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-5-hydroxy-3,4-dihydrocarbostyril | 13.5 g | ClC=1C(=C2CCC(NC2=CC1)=O)O | C9H8ClNO2
